US07432269B2
Step c: Preparation of 4-(4-fluorophenyl)-2-chloropyridine
A mixture of 0.9 g (4.8 mmol) of 4-(4-fluorophenyl)pyridine-1-oxide and 10 mL of phosphoryl chloride is heated at reflux overnight.

reactant | 4-(4-fluorophenyl)pyridine-1-oxide | 4.8 mmol, 0.9 g | FC1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-] | C11H8FNO
reactant | phosphoryl chloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-(4-fluorophenyl)-2-chloropyridine | FC1=CC=C(C=C1)C1=CC(=NC=C1)Cl | C11H7ClFN
